US07728009B1
A reaction vessel is charged with Pd2(dba)3 (0.0183 g, 0.02 mmol), P(t-Bu)3HBF4 (0.0116 g, 0.04 mmol), K3PO4 (0.127 g, 0.60 mmol), o-tolylboronic acid (0.0408 g, 0.30 mmol) and (2-chloro-3-methyl-3H-imidazol-4-yl)-(4-isopropyl-piperazin-1-yl)-methanone (0.0542 g, 0.20 mmol). Toluene (2.4 mL, anhydrous) is added and the reactor is flushed and sealed under argon. The reaction is stirred at 100° C. for 16 hr; then at rt water (2 mL) and isopropyl acetate (1 mL) are added. The organic layer is removed and the aqueous layer is reextracted with isopropyl acetate. The combined organic extracts are passed through a plug of celite with EtOAc as the eluent. The filtered solution is concentrated to ˜⅓ volume in vacuo and the resulting solution is purified via SCX solid phase extraction. Purification of this crude product via preparative LC-MS gives (4-isopropyl-piperazin-1-yl)-(3-methyl-2-o-tolyl-3H-imidazol-4-yl)-methanone. LC-MS (M+1) 327.3.

reactant | K3PO4 | 0.60 mmol, 0.127 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | o-tolylboronic acid | 0.30 mmol, 0.0408 g | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
reactant | (2-chloro-3-methyl-3H-imidazol-4-yl)-(4-isopropyl-piperazin-1-yl)-methanone | 0.20 mmol, 0.0542 g | ClC1=NC=C(N1C)C(=O)N1CCN(CC1)C(C)C | C12H19ClN4O
catalyst | Pd2(dba)3 | 0.02 mmol, 0.0183 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 2.4 mL | C1(=CC=CC=C1)C | C7H8
product | (4-isopropyl-piperazin-1-yl)-(3-methyl-2-o-tolyl-3H-imidazol-4-yl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C=1N(C(=NC1)C1=C(C=CC=C1)C)C | C19H26N4O
